US07582657B2
(c) 2—Chloro-4-(4-trifluoromethyl-phenyl)-pyridine
To 4-(4-trifluoromethyl-phenyl)-pyridine 1-oxide (2.4 g, 10 mmol) was added phosphorous oxychloride (12 mL) at room temperature. The reaction mixture was heated at reflux for 5 h. POCl3 was removed under reduced pressure, and the residue was partitioned between EtOAc and aqueous ammonium hydroxide. The aqueous layer was extracted with EtOAc and the combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was purified by chromatography on a Biotage 40 M column (8:1 hexanes:EtOAc) to give the title compound as a white solid. MS (ESI, pos. ion) m/z: 258.5 (M+1).

reactant | 4-(4-trifluoromethyl-phenyl)-pyridine 1-oxide | 10 mmol, 2.4 g | FC(C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-])(F)F | C12H8F3NO
reactant | phosphorous oxychloride | 12 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2—Chloro-4-(4-trifluoromethyl-phenyl)-pyridine | ClC1=NC=CC(=C1)C1=CC=C(C=C1)C(F)(F)F | C12H7ClF3N
